US06258805B1
Synthesis of ethyl 1-ethyl-3-pyrrolecarboxylate
Using 117.1 g (1 mol) of N-formylsarcosine, 98.1 g (1 mol) of ethyl propiolate and 638 ml of acetic anhydride, a reaction and post treatment were conducted in a similar manner as in Referential Example 1. The resulting brown oil was distilled under reduced pressure and a 103-104° C. fraction was collected under 4 mmHg, whereby 109.19 g of the title compound were obtained (yield: 71.3%).

reactant | N-formylsarcosine | 1 mol, 117.1 g | C(=O)N(C)CC(=O)O | C4H7NO3
reactant | ethyl propiolate | 1 mol, 98.1 g | C(C#C)(=O)OCC | C5H6O2
reactant | acetic anhydride | 638 ml | C(C)(=O)OC(C)=O | C4H6O3
product | ethyl 1-ethyl-3-pyrrolecarboxylate | 109.19 g, yield: 71.3% | C(C)N1C=C(C=C1)C(=O)OCC | C9H13NO2
